US06057324
(±)-cis-Diethyl 4-[4-(4-hydroxyamidinophenyl)-1-piperazinyl]-1,3-piperidinediacetate (1.5 g) was dissolved in 50 ml of 1N hydrochloric acid and the solution was refluxed overnight. The reaction liquid was concentrated and the concentrate was purified by ODS column chromatography (eluent: water to water:methanol=1:1) to give 100 mg of (±)-cis-4-[4-(4-hydroxyamidinophenyl)-1-piperazinyl]-1-[(ethoxycarbonyl)methyl]piperidine-3-acetic acid trihydrochloride.

reactant | (±)-cis-Diethyl 4-[4-(4-hydroxyamidinophenyl)-1-piperazinyl]-1,3-piperidinediacetate | 1.5 g | ONC(=N)C1=CC=C(C=C1)N1CCN(CC1)[C@@H]1[C@@H](CN(CC1)CC(=O)OCC)CC(=O)OCC | C24H37N5O5
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
product | (±)-cis-4-[4-(4-hydroxyamidinophenyl)-1-piperazinyl]-1-[(ethoxycarbonyl)methyl]piperidine-3-acetic acid trihydrochloride | 100 mg | Cl.Cl.Cl.ONC(=N)C1=CC=C(C=C1)N1CCN(CC1)[C@@H]1[C@@H](CN(CC1)CC(=O)OCC)CC(=O)O | InChI=1S/C22H33N5O5.3ClH/c1-2-32-21(30)15-25-8-7-19(17(14-25)13-20(28)29)27-11-9-26(10-12-27)18-5-3-16(4-6-18)22(23)24-31;;;/h3-6,17,19,31H,2,7-15H2,1H3,(H2,23,24)(H,28,29);3*1H/t17-,19+;;;/m1.../s1
